US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-fluorophenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(4-fluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.62 g, 1.4 mmol) and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.5 g, 1.7 mmol), and N,N-diisopropylethylamine (0.39 g, 3.0 mmol) in acetonitrile (10 mL). Heat to reflux. After 2 days, cool evaporate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 2% triethylamine/20% methanol/ethyl acetate to give a residue. Dissolve the residue in dichloromethane, extract with brine, dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound: Rf=0.36 (silica gel, 2% triethylamine/30% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(4-fluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.4 mmol, 0.62 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=C(C=C2)F)C=C(C1OC)OC | C23H28FNO7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.7 mmol, 0.5 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.39 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-fluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)F)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C38H48FN5O5
